US07060697B2
The obtained 1-cyclohexyl-4-(4-methoxy-benzyloxymethyl)-2-trifluoromethyl-benzene is dissolved in a mixture of TFA and DCM (8 mL, 1:1 v/v). After stirring at room temperature for 2 h, all volatile materials are evaporated and the residue obtained is dissolved in EtOAc and washed with saturated aqueous NaHCO3. The organic layer is separated, washed with saturated aqueous NaCl and dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (20% ethyl acetate in hexanes) to give (4-cyclohexyl-3-trifluoromethyl-phenyl)-methanol as a colorless oil.

reactant | 1-cyclohexyl-4-(4-methoxy-benzyloxymethyl)-2-trifluoromethyl-benzene | C1(CCCCC1)C1=C(C=C(C=C1)COCC1=CC=C(C=C1)OC)C(F)(F)F | C22H25F3O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-cyclohexyl-3-trifluoromethyl-phenyl)-methanol | C1(CCCCC1)C1=C(C=C(C=C1)CO)C(F)(F)F | C14H17F3O
